US06552069B1
Concentrated hydrochloric acid (10 drops) was added to a solution of ethyl 10-[(3RS,4RS)-7-(methoxymethoxy)-3-(4-methoxymethoxyphenyl)-3-methylchroman-4-yl]-2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)decanoate (1.33 g, 1.686 mmol) in methanol (15 ml) followed by stirring for 4 hours at 50° C. The reaction mixture was neutralized with aqueous sodium bicarbonate and then concentrated under reduced pressure. Water was added to the residue, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/4) to give ethyl 10-[(3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methylchroman-4-yl]-2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)decanoate (1.10 g, Yield 93%) as a colorless oil.

reactant | ethyl 10-[(3RS,4RS)-7-(methoxymethoxy)-3-(4-methoxymethoxyphenyl)-3-methylchroman-4-yl]-2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)decanoate | 1.686 mmol, 1.33 g | COCOC1=CC=C2C(C(COC2=C1)(C)C1=CC=C(C=C1)OCOC)CCCCCCCCC(C(=O)OCC)CCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C38H49F9O7
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | hydrochloric acid | 10 drops | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | ethyl 10-[(3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methylchroman-4-yl]-2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)decanoate | 1.10 g, Yield 93% | OC1=CC=C2C(C(COC2=C1)(C)C1=CC=C(C=C1)O)CCCCCCCCC(C(=O)OCC)CCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C34H41F9O5
